US04057573
Analogously to the process described in Example 5, 19 g of 6-methoxy-indane-1-carboxylic acid methyl ester and 48 g of p-chlorobenzoyl chloride give 5-(p-chlorobenzoyl)-6-hydroxy-indane-1-carboxylic acid methyl ester of melting point 96°-98° C (from ether-petroleum ether.

reactant | 6-methoxy-indane-1-carboxylic acid methyl ester | 19 g | COC(=O)C1CCC2=CC=C(C=C12)OC | C12H14O3
reactant | p-chlorobenzoyl chloride | 48 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 5-(p-chlorobenzoyl)-6-hydroxy-indane-1-carboxylic acid methyl ester | COC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=CC=C(C=C1)Cl)=O | C18H15ClO4
